US07829572B2
A mixture of (2-methylpyridin-3-yl)methanol (1.0 g, 8.12 mmol) in dichloromethane (10 mL) and manganese oxide (7.06 g, 81.2 mmol) was stirred at room temperature for sixty hours and then heated at 45° C. for 4 h. The reaction was filtered through celite and a plug of silica gel (5×7 cm) using ethyl acetate as eluent. The filtrate was then concentrated to give 2-methyl nicotinaldehyde as an oil (680 mg). 1H NMR (400 MHz, CDCl3) δ 10.32 (s, 1H), 8.67 (dd, 1H), 8.09 (dd, 1H), 7.31 (dd, 1H), 2.88 (s, 3H).

reactant | (2-methylpyridin-3-yl)methanol | 8.12 mmol, 1.0 g | CC1=NC=CC=C1CO | C7H9NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | manganese oxide | 81.2 mmol, 7.06 g | [O-2].[Mn+2]
product | 2-methyl nicotinaldehyde | 680 mg | CC1=C(C=O)C=CC=N1 | C7H7NO
